US07723333B2
2-tert-Butyl-5-phenyl-4-[(4-phenylbutyl)amino]isothiazol-3(2H)-one 1,1-dioxide
A solution of 2-tert-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide (0.150 g, 0.50 mmol), TEA (0.076 g, 0.751 mmol) and 4-phenylbutylamine (0.097 g, 0.65 mmol) in MeCN (3 mL) was heated in a microwave reactor at 120° C. for 10 mins. The mixture was evaporated and the residue was purified by silica gel column chromatography using a 85:15 mixture of heptane and EtOAc as eluant, to give the title compound (0.19 g, 92%) as a solid; 1H NMR (500 MHz, CDCl3): δ 7.52-7.47 (m, 2H), 7.45-7.40 (m, 3H), 7.31-7.26 (m 2H), 7.22-7.17 (m, 1H), 7.08 (d, 2H), 5.26 (t, 1H), 2.88-2.81 (m, 2H), 2.49-7.43 (m 2H), 1.75 (s 9H), 1.48-1.36 (m 4H); 13C NMR (125 MHz, CDCl3) δ 159.9, 141.8, 135.3, 131.9, 129.8, 128.8, 128.6, 128.5, 126.2, 125.3, 107.0, 61.7, 44.1, 35.5, 29.2, 28.4, 27.9; Mass Spectrum: M−H+ 413.

reactant | 2-tert-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.50 mmol, 0.150 g | C(C)(C)(C)N1S(C(=C(C1=O)Cl)C1=CC=CC=C1)(=O)=O | C13H14ClNO3S
reactant | 4-phenylbutylamine | 0.65 mmol, 0.097 g | C1(=CC=CC=C1)CCCCN | C10H15N
solvent | MeCN | 3 mL | CC#N | C2H3N
product | 2-tert-Butyl-5-phenyl-4-[(4-phenylbutyl)amino]isothiazol-3(2H)-one 1,1-dioxide | 0.19 g, 92% | C(C)(C)(C)N1S(C(=C(C1=O)NCCCCC1=CC=CC=C1)C1=CC=CC=C1)(=O)=O | C23H28N2O3S
